US06800637B2
N-(2,3-Dihydro-[1,4]dioxino[2,3-f]quinolin-2-ylmethyl)-N-[3-(5-fluoro-1H-indol-3-yl)propyl]-N-methylamine
To a solution of (2S)-(2,3-dihydro-[1,4]dioxino[2,3-f]quinolin-2-ylmethyl)-[3-(5-fluoro-1H-indol-3-yl)-propyl]-amine (0.13 g, 0.33 mmol) and formaldehyde (37 wt. % in water, 0.26 g, 3.3 mmol) in methanol (20 mL) was added sodium cyanoborohydride (0.038 g, 0.59 mmol) and acetic acid (0.03 g, 0.5 mmol) at room temperature. The mixture was stirred at room temperature under nitrogen overnight, then quenched with 1N NaOH (5 mL). The mixture was extracted with methylene chloride (3×50 mL). The organic layer was washed with water (3×50 mL), dried over anhydrous sodium sulfate, filtered and the solvent was removed under vacuum. The crude oil was column chromatographed on silica gel (5% methanol-methylene chloride). The product-containing fractions were concentrated in vacuum to give 0.1 g of the (S)-enantiomer of the title compound as a brown oil. The dihydrochloride salt was prepared in ethyl acetate as a yellow solid (decomposed at 78° C.).

reactant | (2S)-(2,3-dihydro-[1,4]dioxino[2,3-f]quinolin-2-ylmethyl)-[3-(5-fluoro-1H-indol-3-yl)-propyl]-amine | 0.33 mmol, 0.13 g | O1[C@H](COC=2C1=C1C=CC=NC1=CC2)CNCCCC2=CNC1=CC=C(C=C21)F | C23H22FN3O2
reactant | formaldehyde | 3.3 mmol, 0.26 g | C=O | CH2O
reactant | sodium cyanoborohydride | 0.59 mmol, 0.038 g | C(#N)[BH3-].[Na+]
reactant | acetic acid | 0.5 mmol, 0.03 g | C(C)(=O)O | C2H4O2
solvent | methanol | 20 mL | CO | CH4O
product | N-(2,3-Dihydro-[1,4]dioxino[2,3-f]quinolin-2-ylmethyl)-N-[3-(5-fluoro-1H-indol-3-yl)propyl]-N-methylamine | O1C(COC=2C1=C1C=CC=NC1=CC2)CN(C)CCCC2=CNC1=CC=C(C=C21)F | C24H24FN3O2
